US07238808B2
5-[5-(4-Trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.33) (144 mg, 0.5 mmol) and 5-bromo-thiophene-2-sulfonic acid amide (121 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (153 mg, 68%). MS (ISP) 449.3 [(M+H)+]; mp 224–226° C.

reactant | 3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 144 mg | C(#C)C=1C=NN2C1N=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C15H8F3N3
reactant | 5-bromo-thiophene-2-sulfonic acid amide | 0.5 mmol, 121 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[5-(4-Trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | FC(C1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)(F)F | C19H11F3N4O2S2
